US07119205B2
3-(4-Chloro-phenyl)-4-hydroxy-7H-thieno[2,3-b]pyridine-6-one
To a suspension of NaH (60% suspension in mineral oil, pre washed with hexanes, 0.430 g, 10.73 mmol) in THF (25 mL) was added a solution of 4-(4-chlorophenyl)-2-(2-ethoxycarbonyl acetylamino)-thiophene-3-carboxylic acid ethyl ester (1.9308 g, 4.88 mmol) in THF (25 mL) dropwise via syringe. The reaction mixture was then heated to reflux for 3 hrs, cooled to 0° C. and quenched by dropwise addition of MeOH (5 mL) and H2O (2 mL). The reaction mixture was concentrated to give a crude solid which was then dissolved in MeOH (30 mL) and 40% NaOH (30 mL). The resulting mixture was heated at for 5 hours, cooled to room temperature and acidified with concentrated HCl. The mixture was concentrated under reduced pressure and DMSO/MeOH (1:1) was used to dissolve the residue and filtered. The filtrate was purified on a RP-HPLC system to afford the title compound. MS (ESI) m/e 275.9 (M−H)+; 1H NMR (400 MHz, DMSO-d6): δ ppm 11.55 (br s, 1H), 10.92 (s, 1H), 7.47–7.39 (m, 4H), 7.06 (s, 1H), 5.74 (s, 3H).

reactant | NaH | 10.73 mmol, 0.430 g | [H-].[Na+]
reactant | 4-(4-chlorophenyl)-2-(2-ethoxycarbonyl acetylamino)-thiophene-3-carboxylic acid ethyl ester | 4.88 mmol, 1.9308 g | C(C)OC(=O)C1=C(SC=C1C1=CC=C(C=C1)Cl)NC(CC(=O)OCC)=O | C18H18ClNO5S
reactant | HCl | Cl | ClH
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | MeOH | 30 mL | CO | CH4O
solvent | NaOH | 30 mL | [OH-].[Na+]
product | 3-(4-Chloro-phenyl)-4-hydroxy-7H-thieno[2,3-b]pyridine-6-one | ClC1=CC=C(C=C1)C1=CSC=2NC(C=C(C21)O)=O | C13H8ClNO2S
